US07319099B2
(b) 5-Methanesulfonyl-2-trifluoromethoxy-benzoic acid
To 5-Sulfino-2-trifluoromethoxy-benzoic acid (0.82 g) in DMF (5 mL) was added 1.3 g of potassium carbonate, and the reaction mixture was stirred for 5 minutes before methyl iodide (0.66 mL) was added. The reaction mixture was then stirred at room temperature for 60 hours. After such time the reaction mixture was concentrated in vacuo, and the residue was treated with 1N NaOH (10 mL) and THF (4 mL). The reaction mixture was stirred for a further 2 hours at room temperature. After such time the solution was acidified with concentrated HCl solution. THF was then removed in vacuo) and the precipitate was isolated by filtration and washed several times with water to yield the title compound. MS (m/e): 283.0 (M−H, 100%).

reactant | 5-Sulfino-2-trifluoromethoxy-benzoic acid | 0.82 g | S(=O)(O)C=1C=CC(=C(C(=O)O)C1)OC(F)(F)F | C8H5F3O5S
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.66 mL | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-Methanesulfonyl-2-trifluoromethoxy-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(F)(F)F | C9H7F3O5S
